US06326369B1
7-(2-Iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene
The mixture of 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl methanesulfonate (3.12 g), sodium iodide (3.61 g), and acetone (40 ml) was heated under reflux for 1 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with 5% aqueous sodium sulfite, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo to yield the entitled compound (3.29 g) as crystals.

reactant | 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethyl methanesulfonate | 3.12 g | CS(=O)(=O)OCCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C18H28O7S
reactant | sodium iodide | 3.61 g | [I-].[Na+]
reactant | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 7-(2-Iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene | 3.29 g | ICCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C17H25IO4
